US06562811B1
tert-Butyl 3-(2-methoxyethenyl)-1-piperidinecarboxylate (1.16 g, 4.81 mmol) was dissolved in 90% formic acid (2 mL). The mixture was stirred at room temperature for 40 min. The mixture was then partitioned between ethyl acetate and saturated aqueous NaHCO3 solution. The separated organic phase was washed with brine, dried over Na2SO4, filtered and evaporated. Purification by column chromatography (hexane/ethyl acetate=4/1) gave tert-butyl 3-(2-oxoethyl)-1-piperidinecarboxylate as a colorless oil (652 my, yield; 60%).

reactant | tert-Butyl 3-(2-methoxyethenyl)-1-piperidinecarboxylate | 4.81 mmol, 1.16 g | COC=CC1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO3
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | tert-butyl 3-(2-oxoethyl)-1-piperidinecarboxylate | yield; 60% | O=CCC1CN(CCC1)C(=O)OC(C)(C)C | C12H21NO3
